US08957074B2
Following general N—C coupling procedure 1, 6-oxo-1,7-diaza-spiro[4,4]nonan-1-carboxylic acid tert-butyl ester (1.3 g, 5.41 mmol) was combined with 5-bromo-2-nitropyridine (1.10 g, 5.41 mmol) which gave 7-(6-nitro-pyridin-3-yl)-6-oxo-1,7-diaza-spiro[4,4]nonane-1-carboxylic acid tert-butyl ester (1.55 g) in 79% yield.

reactant | 6-oxo-1,7-diaza-spiro[4,4]nonan-1-carboxylic acid tert-butyl ester | 5.41 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1CCCC12C(NCC2)=O | C12H20N2O3
reactant | 5-bromo-2-nitropyridine | 5.41 mmol, 1.10 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
product | 7-(6-nitro-pyridin-3-yl)-6-oxo-1,7-diaza-spiro[4,4]nonane-1-carboxylic acid tert-butyl ester | 1.55 g, 79% yield | C(C)(C)(C)OC(=O)N1CCCC12C(N(CC2)C=2C=NC(=CC2)[N+](=O)[O-])=O | C17H22N4O5
